US08202873B2
2-{4-[3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride
Dissolve 2-[4-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl)-pyrazol-1-yl]-ethanol (0.201 g, 0.623 mmol) in tetrahydrofuran (1.7 mL) and water (0.9 mL). Add potassium carbonate (189 mg, 1.37 mmol) then 4-methoxymethylbenzeneboronic acid (145 mg, 0.872 mmol) and degas with nitrogen for 15 min. Add tri-n-butylphosphine tetrafluoroborate (7.2 mg, 0.0249 mmol) and tris(dibenzylideneacetone)dipalladium(0) (11.4 mg, 0.0124 mmol) and microwave at 150° C. for 15 min. Cool to room temperature then dilute with saturated aq. sodium bicarbonate and extract 6 times with ethyl acetate. Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 6:94 methanol (with 2 M ammonia):DCM), to give a yellow oil. Dissolve the oil in methanol and add ammonium chloride (1 equivalent) then sonicate the mixture for 10 min. Evaporate the solution to give the title compound as a yellow solid (0.191 g, 75%). MS (ES): m/z=409 [M+H]+.

reactant | 2-[4-(3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl)-pyrazol-1-yl]-ethanol | 0.623 mmol, 0.201 g | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCO | C14H19ClN6O
reactant | potassium carbonate | 1.37 mmol, 189 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methoxymethylbenzeneboronic acid | 0.872 mmol, 145 mg | COCC1=CC=C(C=C1)B(O)O | C8H11BO3
reactant | ammonium chloride | 1 equivalent | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.7 mL | O1CCCC1 | C4H8O
solvent | water | 0.9 mL | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.0124 mmol, 11.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tri-n-butylphosphine tetrafluoroborate | 0.0249 mmol, 7.2 mg | F[B-](F)(F)F.C(CCC)P(CCCC)CCCC
product | 2-{4-[3′-(4-Methoxymethyl-phenyl)-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-ylmethyl]-pyrazol-1-yl}-ethanol hydrochloride | 0.191 g, 75% | Cl.COCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)CCO | InChI=1S/C22H28N6O2.ClH/c1-30-17-18-2-4-20(5-3-18)21-22(24-7-6-23-21)27-10-8-26(9-11-27)15-19-14-25-28(16-19)12-13-29;/h2-7,14,16,29H,8-13,15,17H2,1H3;1H
